US06538004B2
1-methyl-4-(5-nitro-3-thienyl)-1,2,4,6,7,8-hexahydrocyclopenta[b]pyrazolo[4,3-e]pyridine-3,5-dione
2-Nitrothiophene-4-carboxaldehyde (0.16 g, 1.0 mmol), 1,3-cyclopentadione (0.1 g, 1.0 mmol), and 5-amino-1-methyl-1,2-dihydropyrazol-3-one (0.11 g, 1.0 mmol) were processed as described in Example 1 to provide 0.24 g of the title compound. 1H NMR (300 MHz, DMSO-d6) δ 2.35 (m, 2H), 2.68 (m, 2H), 3.5 (s, 3H), 4.8 (s, 1H), 7.51 (d, 1H), 7.89 (d, 1H), 9.75 (bs, 1H), 10.47 (s, 1H); MS (ESI−) m/z 331 (M−H)−; Anal. calcd for C4H12N4O4S: C, 50.60;H, 3.64; N, 16.86. Found: C, 51.06;H, 3.68; N, 16.97.

reactant | 2-Nitrothiophene-4-carboxaldehyde | 1.0 mmol, 0.16 g | [N+](=O)([O-])C=1SC=C(C1)C=O | C5H3NO3S
reactant | 1,3-cyclopentadione | 1.0 mmol, 0.1 g | C1CC(=O)CC1=O | C5H6O2
reactant | 5-amino-1-methyl-1,2-dihydropyrazol-3-one | 1.0 mmol, 0.11 g | NC1=CC(NN1C)=O | C4H7N3O
product | 1-methyl-4-(5-nitro-3-thienyl)-1,2,4,6,7,8-hexahydrocyclopenta[b]pyrazolo[4,3-e]pyridine-3,5-dione | 0.24 g | CN1NC(C=2C(C3=C(NC21)CCC3=O)C3=CSC(=C3)[N+](=O)[O-])=O | C14H12N4O4S
